US05142041
7-amino-3-(4,6-diamino-1-methyl-pyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate;
7-amino-3-(4,6-diamino-1-ethylpyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate; 7-amino-3-(1,4,6-triaminopyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate; 7-amino-3-(4,6-diamino-1,5-dimethylpyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate; and 7-amino-3-(5-methyl-1,4,6-triaminopyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate.

reactant | 7-amino-3-(4,6-diamino-1-ethylpyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CSC2=[N+](C(=CC(=N2)N)N)CC)C(=O)[O-])C1=O | C14H18N6O3S2
reactant | 7-amino-3-(1,4,6-triaminopyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CSC2=[N+](C(=CC(=N2)N)N)N)C(=O)[O-])C1=O | C12H15N7O3S2
reactant | 7-amino-3-(4,6-diamino-1,5-dimethylpyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CSC2=[N+](C(=C(C(=N2)N)C)N)C)C(=O)[O-])C1=O | C14H18N6O3S2
reactant | 7-amino-3-(5-methyl-1,4,6-triaminopyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CSC2=[N+](C(=C(C(=N2)N)C)N)N)C(=O)[O-])C1=O | C13H17N7O3S2
product | 7-amino-3-(4,6-diamino-1-methyl-pyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)CSC2=[N+](C(=CC(=N2)N)N)C)C(=O)[O-])C1=O | C13H16N6O3S2
